US07381719B2
(±)-6-[2-Chloro-4-(3-phenyl-pyrrolidin-1-ylmethyl)-phenoxy]-nicotinonitrile
Using a method similar to Example 365, step 2, using 3-phenyl-pyrrolidine (0.160 g, 1.09 mmol), 6-(4-formyl-2-chloro-phenoxy)-nicotinonitrile (0.250 g, 0.966 mmol), sodium triacetoxyborohydride (0.308 g, 1.45 mmol), and acetic acid (0.090 mL, 1.57 mmol) in 1,2-dichloroethane (10.7 mL), after silica gel chromatography (7:3 hexanes:ethyl acetate), provides 0.202 g (54%) of the title compound as a clear syrup: mass spectrum (electrospray): m/z=390.1 (M+1); 1H NMR (CDCl3): 8.41 (d, 1H, J=2.4 Hz), 7.92 (dd, 1H, J=2.4, 8.8 Hz), 7.50 (d, 1H, J=2.0 Hz), 7.32 (dd, 1H, J=2.0, 8.3 Hz), 7.30-7.26 (m, 4H), 7.21-7.16 (m, 1H), 7.13 (d, 1H, J=8.3 Hz), 7.07 (d, 1H, J=8.3 Hz), 3.70-3.62 (m, 2H), 3.42-3.32 (m, 1H), 3.03 (t, 1H, J=8.8 Hz), 2.87-2.79 (m, 1H), 2.75-2.68 (m, 1H), 2.54 (t, 1H, J=7.8 Hz), 2.40-2.29 (m, 1H), 1.96-1.85 (m, 1H).

reactant | 3-phenyl-pyrrolidine | 1.09 mmol, 0.160 g | C1(=CC=CC=C1)C1CNCC1 | C10H13N
reactant | 6-(4-formyl-2-chloro-phenoxy)-nicotinonitrile | 0.966 mmol, 0.250 g | C(=O)C1=CC(=C(OC2=NC=C(C#N)C=C2)C=C1)Cl | C13H7ClN2O2
reactant | sodium triacetoxyborohydride | 1.45 mmol, 0.308 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.57 mmol, 0.090 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 10.7 mL | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-6-[2-Chloro-4-(3-phenyl-pyrrolidin-1-ylmethyl)-phenoxy]-nicotinonitrile | 0.202 g, 54% | ClC1=C(OC2=NC=C(C#N)C=C2)C=CC(=C1)CN1CC(CC1)C1=CC=CC=C1 | C23H20ClN3O
